US07517893B2
2-Bromo-5-(4-cyanophenyl)furan (2).
Referring now to Scheme 5 above, to a chilled (ice/water bath) solution of 2-(4-cyanophenyl)furan (28.25 g, 0.167 mol) in DMF (100 ml) was added portionwise NBS (31.20 g, 1.05 eq., freshly recrystallized from nitromethane) with stirring (approximately 1 g portions over course of approximately 40 minutes). The resulting solution was stirred for 2 h at room-temperature, at which point TLC showed consumption of starting material. During the course of the reaction, the color went from yellow to orange and then finally to red. The solution was then diluted with water (approximately 300 ml) to give a pink/red solid, which was collected, washed with water, and air dried. Yield: 39.0 g, 94%. A small sample was recrystallized from MeOH/water to give a pale red crystalline solid, mp 96.5-97° C. 1H NMR (DMSO-d6): 6.80 (d, J=3.6 Hz, 1H), 7.29 (d, J=3.6 Hz, 1H), 7.87 (m, 4H). IR (cm−1): 3142, 3128, 3060, 2226, 1613, 1515, 1475, 1015, 929, 833, 787, 545.

reactant | 2-(4-cyanophenyl)furan | 0.167 mol, 28.25 g | C(#N)C1=CC=C(C=C1)C=1OC=CC1 | C11H7NO
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | approximately 300 ml | O | H2O
product | 2-Bromo-5-(4-cyanophenyl)furan | BrC=1OC(=CC1)C1=CC=C(C=C1)C#N | C11H6BrNO
